US07514449B2
Methyl trans-4-aminocyclohexanecarboxylate hydrochloride (1.22 g) obtained in Reference Example 2(1) is suspended in dichloromethane (10 ml), and thereto is added triethylamine (1.76 ml) and the mixture is stirred for several minutes. After a solution of t-butyl (2-oxoethyl)carbamate (1.00 g) in dichloromethane (5 ml) and sodium triacetoxy borohydride (1.46 g) are added successively under ice-cooling, the reaction solution is warmed to the room temperature and stirred for 15 hours. Saturated aqueous sodium hydrogen carbonate solution is poured to the reaction solution, and the mixture is extracted with chloroform. The organic layer is dried over sodium sulfate and evaporated to remove the solvent under reduced pressure. A portion (1.71 g) of the resulting residue (2.33 g) is purified by silica gel column chromatography (eluent: chloroform/methanol=10/1) to give methyl trans-4-({2-[(t-butoxycarbonyl)amino]ethyl}amino)cyclohexanecarboxylate (793 mg).

reactant | Methyl trans-4-aminocyclohexanecarboxylate hydrochloride | 1.22 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | t-butyl (2-oxoethyl)carbamate | 1.00 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | sodium triacetoxy borohydride | 1.46 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.76 ml | C(C)N(CC)CC | C6H15N
product | methyl trans-4-({2-[(t-butoxycarbonyl)amino]ethyl}amino)cyclohexanecarboxylate | 793 mg | C(C)(C)(C)OC(=O)NCCN[C@@H]1CC[C@H](CC1)C(=O)OC | C15H28N2O4
